US05006570
Step II - Preparation of Title compound: N-(1-Cyclohexenylmethyl-2-pyrrolidinylmethyl)-5-chloro-2,3-dihydrobenzofuran-7-carboxamide
32 g of 5-chloro-2,3-dihydrobenzofuran-7-carboxylic acid, 130 ml of chloroform and 16 g of triethylamine were introduced into a 1-liter round-bottomed flask. The contents were cooled to 0°-5° C. and 17.5 g of ethyl chloroformate were then added dropwise and the mixture was stirred for 1 hour and 30 minutes. A solution of 34 g of 1-cyclohexenylmethyl-2-aminomethylpyrrolidine in 68 ml of chloroform was then poured in dropwise, between 5° and 10° C., and the mixture was then stirred for 1 hour at 5° C. and for 1 hour at ambient temperature.

reactant | 5-chloro-2,3-dihydrobenzofuran-7-carboxylic acid | 32 g | ClC=1C=C(C2=C(CCO2)C1)C(=O)O | C9H7ClO3
reactant | triethylamine | 16 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 17.5 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-cyclohexenylmethyl-2-aminomethylpyrrolidine | 34 g | C1(=CCCCC1)CN1C(CCC1)CN | C12H22N2
solvent | chloroform | 68 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 130 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(1-Cyclohexenylmethyl-2-pyrrolidinylmethyl)-5-chloro-2,3-dihydrobenzofuran-7-carboxamide | C1(=CCCCC1)CN1C(CCC1)CNC(=O)C1=CC(=CC=2CCOC21)Cl | C21H27ClN2O2
